US04244961
A mixture of 4.54 g 4,4-dimethyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one, 75 ml ethanol and 1 g 5% palladium on carbon is hydrogenated at 60 psi and 50° for one hour. Filtration and evaporation affords 2.65 g 4,4-dimethyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 238°-240°.

reactant | 4,4-dimethyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 4.54 g | CC1(NC(OC12CCN(CC2)C(=O)OCC2=CC=CC=C2)=O)C | C17H22N2O4
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4,4-dimethyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 2.65 g | CC1(NC(OC12CCNCC2)=O)C | C9H16N2O2
